US07560558B2
N-(3-Formyl-pyridin-4-yl)-2,2-dimethyl-propionamide (3.35 g) was dissolved in 3 N hydrochloric acid (50 ml) to prepare a solution which was stirred under reflux for 5.5 hr. The reaction solution was cooled to room temperature, the reaction solution was then washed with diethyl ether and was neutralized with potassium carbonate powder. Diethyl ether was added thereto, and the mixture was extracted. The diethyl ether layer was dried over potassium carbonate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-chloroform to give 4-amino-pyridine-3-carbaldehyde (1.12 g, yield 58%).

reactant | N-(3-Formyl-pyridin-4-yl)-2,2-dimethyl-propionamide | 3.35 g | C(=O)C=1C=NC=CC1NC(C(C)(C)C)=O | C11H14N2O2
solvent | hydrochloric acid | 3 N, 50 ml | Cl | ClH
product | 4-amino-pyridine-3-carbaldehyde | 1.12 g, yield 58% | NC1=C(C=NC=C1)C=O | C6H6N2O
